US08664258B2
Preparation of N-[4-(2-Amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-2-oxo-2-p-tolyl-acetamide (Compound 20)
The 2-oxo-2-p-tolylacetic acid (14.82 mg, 1.2 eq),), triethylamine (31.45 μL, 3.0 eq) and HATU (34.32 mg, 1.2 eq) were dissolved in 1 mL of dichloromethane and stirred at room temperature for 20 minutes. At this time tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate (25.0 mg, 75.2 μmol) dissolved in 0.5 mL of dichloromethane was added and the reaction was stirred at room temperature for 18 hr. The solvent was evaporated under a stream of nitrogen and the residue was dissolved in 0.5 mL of ethyl acetate. To this was added 2.0M hydrochloric acid in ether (188 μL, 5 eq) and the reaction was stirred at room temperature overnight. The solvent was evaporated under a stream of nitrogen and the residue was dissolved in 1 mL of dimethylsulfoxide and purified by HPLC. The proper fractions were collected and lyophilized to afford the title compound as a white solid in 32.2% yield. LCMS m/z (%)=379 (M+H, 100. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.42 (s, 3 H), 3.12-3.21 (m, 2 H), 3.71 (s, 3 H), 4.19 (t, J=5.56 Hz, 2 H), 6.37 (d, J=1.52 Hz, 1 H), 7.26 (d, J=9.09 Hz, 1 H), 7.42 (d, J=8.59 Hz, 2 H), 7.49 (d, J=2.02 Hz, 1 H), 7.70 (d, J=2.53 Hz, 1 H), 7.82 (dd, J=9.09, 2.53 Hz, 1 H), 7.97 (d, J=8.08 Hz, 2 H), 10.96 (s, 1 H).

reactant | 2-oxo-2-p-tolylacetic acid | 14.82 mg, 1.2 eq | O=C(C(=O)O)C1=CC=C(C=C1)C | C9H8O3
reactant | triethylamine | 31.45 μL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 34.32 mg, 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 75.2 μmol, 25.0 mg | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C17H24N4O3
reactant | hydrochloric acid | 2.0M | Cl | ClH
reactant | ether | 188 μL, 5 eq | CCOCC | C4H10O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-[4-(2-Amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-2-oxo-2-p-tolyl-acetamide | 32.2% yield | NCCOC1=C(C=C(C=C1)NC(C(C1=CC=C(C=C1)C)=O)=O)C=1N(N=CC1)C | C21H22N4O3
